US04395406
1-Carboxymethyl-4-methylthio-5-fluoropyrimid-2-one
4-Methylthio-5-fluoropyrimid-2-one (0.01 mol) was added to 2 M potassium hydroxide solution (10 ml) and dissolved. Chloroacetic acid (0.01 mol) was then added and the reaction mixture heated under reflux for 60 min when the pH was close to neutral. Some precipitate was removed by filtration from the cold reaction mixture and the filtrate brought to pH 2 with HCl. The precipitated product was recrystallised from aqueous methanol; yield 36%, m.p. 244°-245° C.

reactant | 4-Methylthio-5-fluoropyrimid-2-one | 0.01 mol | CSC1=NC(NC=C1F)=O | C5H5FN2OS
reactant | Chloroacetic acid | 0.01 mol | ClCC(=O)O | C2H3ClO2
solvent | potassium hydroxide | 2 M, 10 ml | [OH-].[K+]
product | 1-Carboxymethyl-4-methylthio-5-fluoropyrimid-2-one | yield 36% | C(=O)(O)CN1C(N=C(C(=C1)F)SC)=O | C7H7FN2O3S
